US06297260B1
45a. (Diethoxyphosphoryl)methyl (2S)-2-[6-methoxy(2-naphthyl)]propanoate
A solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (4.8 g, 20.85 mmol), diethyl (hydroxymethyl)phosphonate (3.76 g, 22.36 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (4.29 g, 22.38 mmol) and 4-(dimethylamino)pyridine (catalytic amount) in CH2Cl2 (125 mL) were stirred at room temperature for 2 hours. The reaction was taken up with 0.3 N HCl (150 mL) and extracted with CH2Cl2 (3×50 mL). The combined extracts were washed with water (2×50 mL), dried over Na2SO4, and evaporated under reduced pressure. The product was purified by silica gel column chromatography eluting with 2:1 EtOAc:Hex to obtained the title compound as a viscous oil, 5.23 g (66%). 1H NMR (300 MHz, CDCl3) δ 7.70-7.68 (mult, 3H), 7.43-7.37 (mult, 1H), 7.15-7.09 (mult, 2H), 4.38 (d, JH-P=8.6 Hz, 2H), 4.05-3.85 (mult, 5H), 3.95 (s, 3H), 1.60 (d, J=7.2 Hz, 3H), 1.25-1.1 (mult, 6H); 13C NMR (75 MHz, CDCl3) δ 173.5 (d, JC-P=7.9 Hz), 157.7, 134.9, 133.7, 129.1, 128.8, 127.1, 126.1, 119.0, 105.5, 62.71, 62.62, 62.61, 62.52, 57.1 (d, JC-P=167.0 Hz), 55.2, 45.1, 18.3, 16.20, 16.18, 16.12, 16.11; mass spectrum (API-TIS) m/z 381 (M+H). Anal Calcd for C19H25O6P: C, 60.0; H, 6.62. Found: C, 59.83; H, 6.41.

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 20.85 mmol, 4.8 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | diethyl (hydroxymethyl)phosphonate | 22.36 mmol, 3.76 g | OCP(OCC)(OCC)=O | C5H13O4P
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 22.38 mmol, 4.29 g | Cl.CN(CCCN=C=NCC)C
reactant | HCl | 0.3 N, 150 mL | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | (Diethoxyphosphoryl)methyl (2S)-2-[6-methoxy(2-naphthyl)]propanoate | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCP(=O)(OCC)OCC)C | C19H25O6P
